US06177423B1
8H-5,9,11-Trioxabenzo[de]anthracene-4,6-dione
To a suspension of 620 mg (2.9 mmol) of 4-hydroxy-1,8-naphthalic anhydride (from Example S3) and 1.60 g (53.0 mmol) of paraformaldehyde in 20 mL dioxane was added 5.2 mL of concentrated sulfuric acid. The reaction mixture was refluxed for 1 hour and quenched with 100 mL water. The precipitate was isolated, dried, recrystallized from DMSO, washed with acetone, and dried again to yield 0.50 g of the title compound.

reactant | 4-hydroxy-1,8-naphthalic anhydride | 2.9 mmol, 620 mg | C1=CC2=C(C=CC3=C2C(=C1)C(=O)OC3=O)O | C12H6O4
reactant | paraformaldehyde | 53.0 mmol, 1.60 g | C=O | CH2O
reactant | sulfuric acid | 5.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 8H-5,9,11-Trioxabenzo[de]anthracene-4,6-dione | 0.50 g | C1=CC=C2C(OC(C=3C=C4COCOC4=C1C23)=O)=O | C14H8O5
